US04346088
4-(4-Chloro-3-dimethylsulfamoylphenyl)-3-methyl-2-(2,3-dimethylphenyl-imino)-4-thiazoline
Obtained by a procedure analogous to that indicated in Example 2 (a), from 4-(4-chloro-3-dimethylsulfamoylphenyl)-3-methyl-2-(2,3-dimethylphenyl-imino)-4-thiazoline hydrobromide and triethylamine in methanol. Melting point 226° C.

reactant | 4-(4-chloro-3-dimethylsulfamoylphenyl)-3-methyl-2-(2,3-dimethylphenyl-imino)-4-thiazoline hydrobromide | Br.ClC1=C(C=C(C=C1)C=1N(C(SC1)=NC1=C(C(=CC=C1)C)C)C)S(N(C)C)(=O)=O
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | methanol | CO | CH4O
product | 4-(4-Chloro-3-dimethylsulfamoylphenyl)-3-methyl-2-(2,3-dimethylphenyl-imino)-4-thiazoline | ClC1=C(C=C(C=C1)C=1N(C(SC1)=NC1=C(C(=CC=C1)C)C)C)S(N(C)C)(=O)=O | C20H22ClN3O2S2
